* File: /home/eng/a/axk220238/vlsi/cad/gf65/axk220238_axk230133/INV/INV_lvs/INV.pex.sp.pex
* Created: Thu Nov 30 17:54:46 2023
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INV%OUT 2 5 9 14 20 21
r32 17 20 15
r33 14 17 0.468484
r34 14 24 0.662905
r35 14 20 10
r36 9 23 0.660563
r37 9 21 15
r38 5 24 0.0894509
r39 5 23 0.091394
r40 2 5 1.7
.ends

.subckt PM_INV%VSS 1 2 8 11 17
c22 11 0 7.03762e-20
r23 11 17 15
r24 9 11 1.35743
r25 4 8 0.0786927
r26 2 9 0.0500233
r27 2 8 0.103952
r28 1 4 15
.ends

.subckt PM_INV%VDD 1 2 8 11 19
c23 11 0 7.03762e-20
r24 15 19 15
r25 11 15 0.468484
r26 11 19 10
r27 9 15 1.34572
r28 4 8 0.102009
r29 2 9 0.0500233
r30 2 8 0.0806357
r31 1 4 15
.ends

.subckt PM_INV%IN1 4 6 10 12 14 17 19 26
r43 17 26 25
r44 17 19 1.7
r45 9 26 6.27237
r46 9 10 0.501911
r47 6 14 44.9134
r48 5 10 4.46794
r49 5 6 30.2677
r50 4 10 4.46794
r51 3 12 25.3858
r52 3 4 30.2677
.ends

