* File: /home/eng/a/axk220238/vlsi/cad/gf65/axk220238_axk230133/NAND/NAND_lvs/NAND.pex.sp.pex
* Created: Thu Nov 30 17:59:12 2023
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND%VSS 1 4 12 14 20
r31 12 14 0.309913
r32 9 12 0.0786927
r33 7 9 0.116582
r34 4 20 10
r35 2 7 0.0500233
r36 2 4 1.35743
r37 1 14 30
r38 1 9 10
.ends

.subckt PM_NAND%OUT 3 5 8 11 17 18 21 24 26
c59 26 0 1.8981e-19
c60 8 0 6.65026e-20
c61 3 0 3.48696e-20
r62 21 26 10
r63 19 21 0.420465
r64 17 19 0.0479332
r65 17 18 0.219246
r66 14 24 15
r67 11 14 0.577442
r68 11 24 10
r69 9 11 0.954271
r70 7 18 0.0479332
r71 7 8 0.193889
r72 3 9 0.0931913
r73 3 8 0.0952938
r74 3 5 1.7
.ends

.subckt PM_NAND%VDD 1 4 10 16 19 30 31
r40 23 31 15
r41 19 23 0.468484
r42 19 31 10
r43 17 26 0.0267486
r44 17 23 1.34572
r45 13 16 0.102009
r46 11 13 0.116582
r47 10 26 0.0232747
r48 10 16 0.208876
r49 8 30 15
r50 4 8 0.468484
r51 4 30 10
r52 2 11 0.0500233
r53 2 8 1.34572
r54 1 26 30
r55 1 13 10
.ends

.subckt PM_NAND%IN1 4 6 9 10 12 14 16 20
c48 16 0 6.65026e-20
c49 10 0 1.29816e-19
c50 9 0 1.29816e-19
r51 20 23 25
r52 19 20 1.7
r53 16 19 0.196014
r54 9 23 7.76809
r55 9 10 0.501911
r56 6 14 44.9134
r57 5 10 4.46794
r58 5 6 30.2677
r59 4 10 4.46794
r60 3 12 25.3858
r61 3 4 30.2677
.ends

.subckt PM_NAND%IN2 4 6 10 12 14 16 20 23
c46 23 0 1.29816e-19
c47 16 0 1.8981e-19
c48 10 0 1.29816e-19
r49 20 23 25
r50 19 20 1.7
r51 16 19 0.216647
r52 9 23 7.76809
r53 9 10 0.501911
r54 6 14 44.9134
r55 5 10 4.46794
r56 5 6 30.2677
r57 4 10 4.46794
r58 3 12 25.3858
r59 3 4 30.2677
.ends

