* File: /home/eng/a/axk220238/vlsi/cad/gf65/axk220238_axk230133/NOR/NOR_lvs/NOR.pex.sp.pex
* Created: Thu Nov 30 18:03:59 2023
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR%VSS 1 4 7 13 16 25 26
r40 16 26 10
r41 14 20 0.0267486
r42 14 16 1.35743
r43 10 13 0.0786927
r44 8 10 0.116582
r45 7 20 0.0232747
r46 7 13 0.232192
r47 4 25 10
r48 2 8 0.0500233
r49 2 4 1.35743
r50 1 20 30
r51 1 10 10
.ends

.subckt PM_NOR%OUT 2 5 9 13 14 15 18 24 25
c65 24 0 1.8981e-19
c66 5 0 3.48696e-20
r67 21 24 15
r68 18 21 0.468484
r69 18 24 10
r70 16 18 0.422807
r71 14 16 0.0479332
r72 14 15 0.219246
r73 13 15 0.0479332
r74 12 13 0.193889
r75 9 25 10
r76 7 9 0.950899
r77 5 12 0.0931913
r78 5 7 0.0952938
r79 2 5 1.7
.ends

.subckt PM_NOR%VDD 1 4 15 17 22
c33 1 0 1.84933e-21
r34 15 17 0.286597
r35 12 15 0.102009
r36 10 12 0.116582
r37 8 22 15
r38 4 8 0.468484
r39 4 22 10
r40 2 10 0.0500233
r41 2 8 1.34572
r42 1 17 30
r43 1 12 10
.ends

.subckt PM_NOR%NET012 2 9
c18 9 0 1.84933e-21
c19 2 0 3.48696e-20
r20 6 9 15
r21 2 6 0.577442
r22 2 9 10
.ends

.subckt PM_NOR%IN1 4 6 9 10 12 14 16 19
c49 10 0 1.29816e-19
c50 9 0 1.29816e-19
r51 19 22 25
r52 16 19 1.7
r53 9 22 7.76809
r54 9 10 0.501911
r55 6 14 44.9134
r56 5 10 4.46794
r57 5 6 30.2677
r58 4 10 4.46794
r59 3 12 25.3858
r60 3 4 30.2677
.ends

.subckt PM_NOR%IN2 4 6 10 12 14 16 20 23
c49 23 0 1.29816e-19
c50 16 0 1.8981e-19
c51 10 0 1.29816e-19
r52 20 23 25
r53 19 20 1.7
r54 16 19 0.216647
r55 9 23 7.76809
r56 9 10 0.501911
r57 6 14 44.9134
r58 5 10 4.46794
r59 5 6 30.2677
r60 4 10 4.46794
r61 3 12 25.3858
r62 3 4 30.2677
.ends

