* File: /home/eng/a/axk220238/vlsi/cad/gf65/axk220238_axk230133/OR/OR_lvs/OR.pex.sp.pex
* Created: Thu Nov 30 18:08:58 2023
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OR%OUT 3 5 10 13 18 26 30 32 33 35
c50 33 0 2.87342e-19
c51 32 0 2.87342e-19
c52 3 0 1.5082e-19
r53 28 30 0.0874363
r54 24 26 0.0874363
r55 21 32 15
r56 18 21 0.468484
r57 18 32 10
r58 16 30 0.00503833
r59 16 18 0.182709
r60 13 33 10
r61 11 26 0.00503833
r62 11 13 0.180366
r63 10 28 0.00503833
r64 10 36 0.400906
r65 7 24 0.00503833
r66 7 35 0.400906
r67 3 36 0.0926184
r68 3 35 0.0944263
r69 3 5 1.7
.ends

.subckt PM_OR%VSS 1 2 9 12 15 21 28 30
r57 21 30 10
r58 19 21 1.35743
r59 15 17 0.212762
r60 13 24 0.0264868
r61 13 15 0.0252594
r62 12 19 0.0500233
r63 12 17 0.189445
r64 9 28 10
r65 7 24 0.018948
r66 7 9 1.67314
r67 2 24 0.0264868
r68 2 4 0.0631485
r69 1 17 15
r70 1 4 10
.ends

.subckt PM_OR%NET07 5 7 8 10 11 16 23 27 28 32 38 39 40 41
c100 40 0 1.90966e-19
c101 16 0 1.71179e-19
c102 11 0 1.71179e-19
r103 35 40 15
r104 32 35 0.468484
r105 32 40 10
r106 30 32 0.422807
r107 29 39 0.0363272
r108 28 30 0.0479332
r109 28 29 0.219246
r110 27 39 0.00944082
r111 26 38 0.0363272
r112 26 27 0.623817
r113 23 41 10
r114 21 38 0.0363272
r115 21 23 0.518254
r116 18 19 25
r117 16 39 0.0363272
r118 16 18 0.531087
r119 13 14 25
r120 11 38 0.00944082
r121 11 13 0.531087
r122 8 19 9.09917
r123 8 10 44.9134
r124 5 14 9.21088
r125 5 7 25.3858
.ends

.subckt PM_OR%VDD 1 2 9 17 19 25
c48 1 0 3.69867e-21
r49 17 19 0.189445
r50 15 22 0.0264868
r51 15 17 0.0485757
r52 13 25 15
r53 9 13 0.577442
r54 9 25 10
r55 7 22 0.018948
r56 7 13 1.6587
r57 2 22 0.0264868
r58 2 4 0.0631485
r59 1 19 15
r60 1 4 10
.ends

.subckt PM_OR%NET012 2 9
c16 9 0 3.69867e-21
r17 6 9 15
r18 2 6 0.577442
r19 2 9 10
.ends

.subckt PM_OR%IN1 4 6 9 10 12 14 16 20
c64 20 0 2.32325e-19
c65 10 0 1.33183e-19
c66 9 0 1.21092e-19
c67 6 0 1.5082e-19
r68 20 23 25
r69 19 20 1.7
r70 16 19 0.19378
r71 9 23 9.88571
r72 9 10 0.235459
r73 6 14 44.9134
r74 5 10 3.96642
r75 5 6 31.2441
r76 4 10 3.96642
r77 3 12 25.3858
r78 3 4 31.2441
.ends

.subckt PM_OR%IN2 4 6 10 12 14 17 19 22
c47 22 0 1.33183e-19
c48 19 0 1.90966e-19
c49 10 0 1.21092e-19
r50 17 22 25
r51 17 19 1.7
r52 9 22 8.51429
r53 9 10 0.235459
r54 6 14 44.9134
r55 5 10 3.96642
r56 5 6 31.2441
r57 4 10 3.96642
r58 3 12 25.3858
r59 3 4 31.2441
.ends

